US04128548
2,2-Dimethyl-1-(2-hydroxyethyl)-7-methoxy-3-methylamino-1,2,3,4-tetrahydronaphthalene hydrochloride
This compound, described already in Examples 12 and 13, can also be prepared as described in Example 13, however, starting from 2,2-dimethyl-1-(2-hydroxyethylidene)-7-methoxy-3-(N-methyl-p-toluenesulfonamido)1,2,3,4-tetrahydronaphthalene. In this case, both the reduction of the olefinic double bond and the reductive cleavage of the p-toluenesulphonamido group are effectuated by the sodium metal dissolving in liquid ammonia. The endpoint of the reduction is reached if the blue colour persists for some 15 minutes. In this case again, a mixture of two stereoisomers is obtained, the total yield being 87% of crystalline hydrochloride.

reactant | 2,2-dimethyl-1-(2-hydroxyethylidene)-7-methoxy-3-(N-methyl-p-toluenesulfonamido)1,2,3,4-tetrahydronaphthalene | CC1(C(C2=CC(=CC=C2CC1N(S(=O)(=O)C1=CC=C(C=C1)C)C)OC)=CCO)C | C23H29NO4S
reactant | sodium | [Na] | Na
reactant | hydrochloride | Cl | ClH
solvent | ammonia | N | H3N
product | 2,2-Dimethyl-1-(2-hydroxyethyl)-7-methoxy-3-methylamino-1,2,3,4-tetrahydronaphthalene hydrochloride | Cl.CC1(C(C2=CC(=CC=C2CC1NC)OC)CCO)C | InChI=1S/C16H25NO2.ClH/c1-16(2)14(7-8-18)13-10-12(19-4)6-5-11(13)9-15(16)17-3;/h5-6,10,14-15,17-18H,7-9H2,1-4H3;1H
